US07737166B2
Methyl 4-cyano-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-6-carboxylate (I-183)
2-Cyclopropyl-7-fluoro-6-formyl-5-methyl-1,3-benzoxazole-4-carbonitrile (I-182) (280 mg, 1.15 mmol) was dissolved in tert-butanol (8 ml), tetrahydrofuran (6 ml) and water (6 ml), then at 0° C., sodium dihydrogenphosphate dihydrate (268 mg, 1.72 mmol), 2-methyl-2-butene (515 μl, 4.59 mmol), then sodium chlorite (purity 80%, 389 mg, 3.44 mmol) were added. After stirring at room temperature for 6 hours, the solvent was evaporated away under reduced pressure. The residue was fractionated with ethyl acetate and aqueous 1 mol hydrochloric acid solution. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, then the solvent was evaporated away under reduced pressure. Benzene (6 ml) and methanol (2 ml) were added to it, then at 0° C., 2 M trimethylsilyldiazomethane/diethyl ether solution (1.15 ml, 2.29 mmol) was added. After stirring at room temperature for 18 hours, an aqueous saturated sodium hydrogencarbonate solution was added at 0° C. The solution was extracted three times with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate.

reactant | 2-Cyclopropyl-7-fluoro-6-formyl-5-methyl-1,3-benzoxazole-4-carbonitrile | 1.15 mmol, 280 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=O)C)C#N | C13H9FN2O2
reactant | sodium dihydrogenphosphate dihydrate | 1.72 mmol, 268 mg | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 4.59 mmol, 515 μl | CC(C)=CC | C5H10
reactant | sodium chlorite | 3.44 mmol, 389 mg | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 1 mol | Cl | ClH
reactant | trimethylsilyldiazomethane diethyl ether | 2.29 mmol, 2 M, 1.15 ml | C[Si](C)(C)C=[N+]=[N-].C(C)OCC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tert-butanol | 8 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 6 ml | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | Methyl 4-cyano-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-6-carboxylate | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)F)C(=O)OC)C | C14H11FN2O3
